US09382188B2
D) ethyl 3-(2-(acetoxymethyl)pyridin-4-yl)propanoate
A mixture of 4-(3-ethoxy-3-oxopropyl)-2-methylpyridine 1-oxide (1.99 g) and acetic anhydride (10 mL) was stirred at 100° C. for 30 min. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (NH, ethyl acetate/hexane) to give a crude product of the title compound as a colorless oil. This compound was used for the next step without further purification.

reactant | 4-(3-ethoxy-3-oxopropyl)-2-methylpyridine 1-oxide | 1.99 g | C(C)OC(CCC1=CC(=[N+](C=C1)[O-])C)=O | C11H15NO3
solvent | acetic anhydride | 10 mL | C(C)(=O)OC(C)=O | C4H6O3
product | ethyl 3-(2-(acetoxymethyl)pyridin-4-yl)propanoate | C(C)(=O)OCC1=NC=CC(=C1)CCC(=O)OCC | C13H17NO4
